2157-10-19 06:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2157-10-18**] 03:00 PM
   - Decreased urine OUP - follow.
   - Need renal consult
   - Started on vanc/cipro.
   - Family meeting, at which family decided to make him DNR/DNI.
   Allergies:
   Sulfonamides
   Unknown;
   A.C.E Inhibitors
   Cough;
   Protonix (Oral) (Pantoprazole Sodium)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2157-10-18**] 11:00 AM
   Infusions:
   Dopamine - 4 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-10-19**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 70 (70 - 72) bpm
   BP: 98/41(66) {77/39(53) - 105/66(79)} mmHg
   RR: 23 (12 - 25) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
             Total In:
                                                                  2,470 mL
                                                                     93 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  1,850 mL
                                                                     93 mL
   Blood products:
   Total out:
                                                                     83 mL
                                                                     55 mL
   Urine:
                                                                     83 mL
                                                                     55 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,387 mL
                                                                     38 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///18/
   Physical Examination
   GEN: lying in bed moaning but not grimacing or in distress (per nursing
   this is his baseline); less responsive than yesterday
   HEENT: no JVD, no lymphadenopathy, MM dry, no skin tenting on forehead
   RESP: unlabored, a small amount of fine bibasilar crackles
   CVS: RRR, no MRG but diff to hear over pt's moaning
   ABD: distended, tympanic but not tense, soft, NT, fine pale
   erythematous vascular rash across lower abdomen
   EXT: no LE edema; bruising on UE, right forearm with swelling but no
   edema
   NEURO: moaning in bed, responds somewhat to voice and makes purposefull
   movements, but does not follow commands
   Labs / Radiology
   111
   8.1
   107
   5.4 mg/dL
   18 mEq/L
   5.2 mEq/L
   123 mg/dL
   100
   132          mEq/L
   24.1 %
   6.3
        [image002.jpg]
                            [**2157-10-18**]  10:25 AM
                            [**2157-10-18**]  05:00 PM
                                  [**2157-10-19**]
                                   5:45 AM
   Hct
   26.3
   24.1
   Cr
   4.9
   5.1
   5.4
   TropT
   0.05
   0.05
   Glucose
   77
   120
   107
   Other labs: CK / CKMB / Troponin-T:139/7/0.05, Ca++:8.9 mg/dL, Mg++:3.0
   mg/dL, PO4:7.1 mg/dL
   Urine lytes: Urea 359, creatinine 183, Na 19, Osm 330; FENa 0.4%
   CXR: moderate CHF
   KUB: non-obstructive bowel gas pattern
   CT abd/pelvis: mod pleural effusions R>L; nodular liver; trace
   ascities; b/l renal cysts unchanged; diverticulosis w/o diverticulitis.
   Assessment and Plan
   .
   # Hypotension: Likely multifactorial.  Could be [**1-22**] infection with UA
   concerning for UTI.  On cipro, but has been afebrile and without
   leukocytosis.  Other considerations include dehydration given physical
   exam, ARF and increased Torsemide/Valsartan.  Received almost 3L of IVF
   yesterday
   - A line placed
   - Cont. dopamine to maintain SBP
   - On Cipro for presumed UA
   - Hold Torsemide, Valsartan and Carvedilol
   .
   # ARF on CRI.  CKD baseline Cr 2-2.2.  Worsened during last hospital
   course.  Attributed to starting Torsemide and Valsartan, but discharged
   on these medications despite this.  Hyperkalemia likely attributable to
   worsened renal function.  Urine lytes consistent with prerenal
   etiology.  Patient is not a candidate for dialysis.
   - Hold Torsemide/Valsartan
   - Continue Sevelamer, check phos, consider d/c if improves
   - Renal consult
   - Renal diet once diet advanced
   - Consider renal u/s if no improvement
   .
   # Hyperkalemia: Likely [**1-22**] ARF on CRI.  EKG without changes concerning
   for life-threatening hyperkalemia.
   - Repeat electrolytes, continue checking EKG
   - Kayexelate
   .
   # Anemia: Baseline.  On last admission attributed to his CRI.
   Discharged on ProCrit and iron.  +Guaiac positive in ED.  Would not
   transfuse unless acute drop > 3pt or Hct <21 or e/o end organ ischemia.
   - [**Hospital1 7**] HCT
   - Guaiac stools
   - Hold iron for ?contribution to AMS
   .
   # Falls: Likely [**1-22**] physical decline given repeat hospitalization, as
   well as possible AMS with UTI, iron, electrolyte abnormalities and
   hypotension.
   - d/c iron
   - treat UTI
   - Give fluid for hypotension
   - PT/OT consults after improvement ?safe to d/c home vs placement
   .
   # UTI: UA positive in ED.
   - Follow-up cultures
   - Continue Cipro
   .
   # Type II diabetes mellitus: Hold Glipizide. Monitor on ISS with QID
   FS.
   .
   # CAD s/p CABG in [**2127**]: On ASA, BB. Hold BB for hypotension, will
   restart as able.
   - Continue ASA
   .
   # BPH s/p TURP: On tamsulosin as outpatient.  Foley in place.
   - Hold tamsulosin given hypotenion
   - d/c Foley soon
   - Restart Tamsulosin once improved
   .
   # Sensory deficits: B/L vision loss and hearing loss.  [**Month (only) 51**] worsen AMS
   and contribute to hospital acquired delirium.
   - Orient frequently
   - Discuss with family
   .
   FEN:  Hypovolemic - replete / monitor electrolytes [**Hospital1 7**] / NPO while AMS,
   advance to Renal/DM/Heart Healthy diet as improves
   Ppx: Pneumoboots / bowel regimen
   Access: A-line, requesting PICC line today.
   .
   Code: DNR/DNI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2157-10-18**] 08:00 AM
   Arterial Line - [**2157-10-18**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-10-19 09:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   [**Age over 90 **] yo man with CRI, CAD, CHF, admitted with HOTN and falls,  In ED with
   low BP and low urine output.  Labs significant for hyperK.  Family
   meeting last night made DNR/DNI/no HD.  Currently on dopamine.
   24 Hour Events:
 ARTERIAL LINE - START [**2157-10-18**] 03:00 PM
   Allergies:
   Sulfonamides
   Unknown;
   A.C.E Inhibitors
   Cough;
   Protonix (Oral) (Pantoprazole Sodium)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2157-10-18**] 11:00 AM
   Infusions:
   Dopamine - 4 mcg/Kg/min
   Other ICU medications:
   Other medications:
   SSI ASA
   sevalamer
   bisacodyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-10-19**] 09:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.2
   HR: 70 (70 - 72) bpm
   BP: 98/49(63) {77/39(53) - 105/66(79)} mmHg
   RR: 21 (12 - 25) insp/min
   SpO2: 93%
   Heart rhythm: V Paced
             Total In:
                                                                  2,470 mL
                                                                    134 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  1,850 mL
                                                                    134 mL
   Blood products:
   Total out:
                                                                     83 mL
                                                                     64 mL
   Urine:
                                                                     83 mL
                                                                     64 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,387 mL
                                                                     70 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///18/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, No(t) Oriented (to): , Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   8.1 g/dL
   111 K/uL
   107 mg/dL
   5.4 mg/dL
   18 mEq/L
   5.2 mEq/L
   133 mg/dL
   100 mEq/L
   132 mEq/L
   24.1 %
   6.3 K/uL
        [image002.jpg]
                            [**2157-10-18**]  10:25 AM
                            [**2157-10-18**]  05:00 PM
                            [**2157-10-19**]  05:45 AM
   WBC
   6.3
   Hct
   26.3
   24.1
   Plt
   111
   Cr
   4.9
   5.1
   5.4
   TropT
   0.05
   0.05
   Glucose
   77
   120
   107
   Other labs: PT / PTT / INR:17.8/38.5/1.6, CK / CKMB /
   Troponin-T:139/7/0.05, Ca++:8.9 mg/dL, Mg++:3.0 mg/dL, PO4:7.1 mg/dL
   Fluid analysis / Other labs: FeNa 0.4%
   Assessment and Plan
 NAUSEA / VOMITING
 HYPOTENSION:  [**Month (only) 51**] be due to hypovolemia or septic shock.  Being
   treated for UTI.  Gentle fluids as don't want him to develop pulmonary
   edema.  was 3L positive.
   Urinary tract infection:  on cipro
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)   Likely multifactorial due to torsemide and losartan, and
   hypovolemia and maybe sepsis due to UTI.
   Renal consult to see:
 IMPAIRED PHYSICAL MOBILITY
 ALTERED MENTAL STATUS (NOT DELIRIUM): Toxic metabolic
   Hyperkalemia - getting kayexalate.
   PIC line today
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2157-10-18**] 08:00 AM
   Arterial Line - [**2157-10-18**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2157-10-20 05:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2157-10-19**] 02:00 PM
   new picc L  arm
   - kayexalate given, K+ down
   - PICC placed; pt. pulled peripheral IV
   - renal recs, keep SBP >100 w/ dopamine
   - updated sons
   Allergies:
   Sulfonamides
   Unknown;
   A.C.E Inhibitors
   Cough;
   Protonix (Oral) (Pantoprazole Sodium)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2157-10-19**] 10:00 AM
   Infusions:
   Dopamine - 5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-10-20**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.7
C (96.2
   HR: 70 (68 - 73) bpm
   BP: 99/55(71) {86/39(54) - 109/66(80)} mmHg
   RR: 21 (15 - 24) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Wgt (current): 74.2 kg (admission): 33.2 kg
             Total In:
                                                                    939 mL
                                                                     37 mL
   PO:
                                                                    420 mL
             TF:
   IVF:
                                                                    519 mL
                                                                     37 mL
   Blood products:
   Total out:
                                                                    166 mL
                                                                     69 mL
   Urine:
                                                                    166 mL
                                                                     69 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    773 mL
                                                                    -32 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///17/
   Physical Examination
   GEN: lying in bed moaning but not grimacing or in distress (per nursing
   this is his baseline); less responsive than yesterday
   HEENT: no JVD, no lymphadenopathy, MM dry, no skin tenting on forehead
   RESP: unlabored, a small amount of fine bibasilar crackles
   CVS: RRR, no MRG but diff to hear over pt's moaning
   ABD: distended, tympanic but not tense, soft, NT, fine pale
   erythematous vascular rash across lower abdomen
   EXT: no LE edema; bruising on UE, right forearm with swelling but no
   edema
   NEURO: moaning in bed, responds somewhat to voice and makes purposefull
   movements, but does not follow commands
   Labs / Radiology
   116 K/uL
   8.2 g/dL
   127 mg/dL
   5.7 mg/dL
   17 mEq/L
   4.8 mEq/L
   138 mg/dL
   100 mEq/L
   133 mEq/L
   24.5 %
   5.9 K/uL
        [image002.jpg]
                            [**2157-10-18**]  10:25 AM
                            [**2157-10-18**]  05:00 PM
                            [**2157-10-19**]  05:45 AM
                            [**2157-10-19**]  04:35 PM
                            [**2157-10-20**]  03:59 AM
   WBC
   6.3
   5.9
   Hct
   26.3
   24.1
   24.5
   Plt
   111
   116
   Cr
   4.9
   5.1
   5.4
   5.6
   5.7
   TropT
   0.05
   0.05
   Glucose
   77
   120
   107
   104
   127
   Other labs: PT / PTT / INR:17.8/38.5/1.6, CK / CKMB /
   Troponin-T:139/7/0.05, Ca++:8.6 mg/dL, Mg++:3.0 mg/dL, PO4:7.4 mg/dL
   Assessment and Plan
 # Hypotension: Likely multifactorial.  Could be [**1-22**] infection with UA
   concerning for UTI.  On cipro, but has been afebrile and without
   leukocytosis.  Other considerations include dehydration given physical
   exam, ARF and increased Torsemide/Valsartan.  Received almost 3L of IVF
   yesterday
   - A line placed
   - Cont. dopamine to maintain SBP
   - On Cipro for presumed UA
   - Hold Torsemide, Valsartan and Carvedilol
   .
   # ARF on CRI.  CKD baseline Cr 2-2.2.  Worsened during last hospital
   course.  Attributed to starting Torsemide and Valsartan, but discharged
   on these medications despite this.  Hyperkalemia likely attributable to
   worsened renal function.  Urine lytes consistent with prerenal
   etiology.  Patient is not a candidate for dialysis.
   - Hold Torsemide/Valsartan
   - Continue Sevelamer, check phos, consider d/c if improves
   - Renal consult
   - Renal diet once diet advanced
   - Consider renal u/s if no improvement
   .
   # Hyperkalemia: Likely [**1-22**] ARF on CRI.  EKG without changes concerning
   for life-threatening hyperkalemia.
   - Repeat electrolytes, continue checking EKG
   - Kayexelate
   .
   # Anemia: Baseline.  On last admission attributed to his CRI.
   Discharged on ProCrit and iron.  +Guaiac positive in ED.  Would not
   transfuse unless acute drop > 3pt or Hct <21 or e/o end organ ischemia.
   - [**Hospital1 7**] HCT
   - Guaiac stools
   - Hold iron for ?contribution to AMS
   .
   # Falls: Likely [**1-22**] physical decline given repeat hospitalization, as
   well as possible AMS with UTI, iron, electrolyte abnormalities and
   hypotension.
   - d/c iron
   - treat UTI
   - Give fluid for hypotension
   - PT/OT consults after improvement ?safe to d/c home vs placement
   .
   # UTI: UA positive in ED.
   - Follow-up cultures
   - Continue Cipro
   .
   # Type II diabetes mellitus: Hold Glipizide. Monitor on ISS with QID
   FS.
   .
   # CAD s/p CABG in [**2127**]: On ASA, BB. Hold BB for hypotension, will
   restart as able.
   - Continue ASA
   .
   # BPH s/p TURP: On tamsulosin as outpatient.  Foley in place.
   - Hold tamsulosin given hypotenion
   - d/c Foley soon
   - Restart Tamsulosin once improved
   .
   # Sensory deficits: B/L vision loss and hearing loss.  [**Month (only) 51**] worsen AMS
   and contribute to hospital acquired delirium.
   - Orient frequently
   - Discuss with family
   .
   FEN:  Hypovolemic - replete / monitor electrolytes [**Hospital1 7**] / NPO while AMS,
   advance to Renal/DM/Heart Healthy diet as improves
   Ppx: Pneumoboots / bowel regimen
   Access: A-line, requesting PICC line today.
   .
   Code: DNR/DNI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2157-10-18**] 08:00 AM
   Arterial Line - [**2157-10-18**] 03:00 PM
   PICC Line - [**2157-10-19**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2157-10-21 04:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Spoke with patient's 2 sons [**Name2 (NI) **] and [**First Name4 (NamePattern1) 1296**] [**Known lastname **]) with [**Name (NI) 376**] [**Last Name (NamePattern1) 377**] from
   palliative care, decision was made to make CMO.
   Dopamine d/c'd, all meds stopped
   Morphine for pain control
   Allergies:
   Sulfonamides
   Unknown;
   A.C.E Inhibitors
   Cough;
   Protonix (Oral) (Pantoprazole Sodium)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2157-10-19**] 10:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2157-10-20**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-10-21**] 04:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.9
C (96.6
   HR: 70 (70 - 73) bpm
   BP: 94/44(55) {67/33(48) - 123/60(72)} mmHg
   RR: 17 (13 - 29) insp/min
   SpO2: 92%
   Heart rhythm: V Paced
   Wgt (current): 74.2 kg (admission): 33.2 kg
                  Total In:
                                                                    301 mL
                  PO:
                                                                    180 mL
                  TF:
   IVF:
                                                                    121 mL
   Blood products:
   Total out:
                                                                    281 mL
                                                                      0 mL
   Urine:
                                                                    281 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     20 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ////
   Physical Examination
   GEN: lying in bed moaning but not grimacing or in distress (per nursing
   this is his baseline); less responsive than yesterday
   HEENT: no JVD, no lymphadenopathy, MM dry, no skin tenting on forehead
   RESP: unlabored, more crackles anteriorly
   CVS: RRR, no MRG but diff to hear over pt's moaning
   ABD: distended, tympanic but not tense, soft, NT, fine pale
   erythematous vascular rash across lower abdomen
   EXT: no LE edema; bruising on UE, right forearm with swelling but no
   edema
   NEURO: moaning in bed, responds somewhat to voice and makes purposefull
   movements, but does not follow commands
   Labs / Radiology
   116 K/uL
   8.2 g/dL
   127 mg/dL
   5.7 mg/dL
   17 mEq/L
   4.8 mEq/L
   138 mg/dL
   100 mEq/L
   133 mEq/L
   24.5 %
   5.9 K/uL
        [image002.jpg]
                            [**2157-10-18**]  10:25 AM
                            [**2157-10-18**]  05:00 PM
                            [**2157-10-19**]  05:45 AM
                            [**2157-10-19**]  04:35 PM
                            [**2157-10-20**]  03:59 AM
   WBC
   6.3
   5.9
   Hct
   26.3
   24.1
   24.5
   Plt
   111
   116
   Cr
   4.9
   5.1
   5.4
   5.6
   5.7
   TropT
   0.05
   0.05
   Glucose
   77
   120
   107
   104
   127
   Other labs: PT / PTT / INR:17.8/38.5/1.6, CK / CKMB /
   Troponin-T:139/7/0.05, Ca++:8.6 mg/dL, Mg++:3.0 mg/dL, PO4:7.4 mg/dL
   Assessment and Plan
   Assessment and Plan:
   [**Age over 90 **]yo M w/ hx of DM, CAD s/p CABG
[**27**], single chamber PPM, EF 40%, p/w
   falls and concern for safety.  Found to be in ARF and hypotensive.
    # Hypotension: Likely multifactorial.  Possibly dehydration, ARF and
   baseline low BPs per prior notes and discharge summaries.  Received
   almost 3L of IVF yesterday. On Dopamine to keep BP > 100 per renal
   recommendations.
   - Attempt to wean Dopamine with BP goal > 90 systolic, MAP >50
   - D/C cipro
   - Hold Torsemide, Valsartan and Carvedilol
   .
   # ARF on CRI.  CKD baseline Cr 2-2.2.  Worsened during last hospital
   course.  Attributed to starting Torsemide and Valsartan, but discharged
   on these medications despite this.  Hyperkalemia likely attributable to
   worsened renal function.  Urine lytes consistent with prerenal
   etiology.  Family does not want to pursue dialysis.
   - Hold Torsemide/Valsartan
   - Continue Sevelamer
   - Renal diet once diet advanced
   - Ongoing discussion re: goals of care
   .
   # Hyperkalemia: Likely [**1-22**] ARF on CRI.  Potassium improved today.
   - Kayexelate PRN, check lytes daily
   .
   # Anemia: Baseline.  On last admission attributed to his CRI.
   Discharged on ProCrit and iron.  +Guaiac positive in ED.  Would not
   transfuse unless acute drop > 3pt or Hct <21 or e/o end organ ischemia.
   - continue to trend
   .
   # UTI: UA positive in ED but cultures are negative.
   - D/C cipro
   .
   # Type II diabetes mellitus: Hold Glipizide. Monitor on ISS with QID
   FS.
   .
   # CAD s/p CABG in [**2127**]: On ASA, BB. Hold BB for hypotension, will
   restart as able.
   - Continue ASA
   .
   # BPH s/p TURP: On tamsulosin as outpatient.  Foley in place.
   - Hold tamsulosin given hypotenion
   .
   # Sensory deficits: B/L vision loss and hearing loss.  [**Month (only) 51**] worsen AMS
   and contribute to hospital acquired delirium.
   - Orient frequently
   - Discuss with family
   .
   # FEN:  Hypovolemic - replete / monitor electrolytes / NPO while AMS,
   advance to Renal/DM/Heart Healthy diet as improves
   .
   # Ppx: Pneumoboots / bowel regimen
   .
   # Access: PICC line
   .
   Code: DNR/DNI, discuss comfort care with family
   - palliate care consult
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2157-10-19**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition: